US08754114B2
Step 2: N1-(3-aminophenyl)-4-bromobenzene-1,2-diamine
A mixture of tert-butyl {3-[(4-bromo-2-nitrophenyl)amino]phenyl}carbamate (10.1 g, 24.7 mmol) and tin dichloride (24 g, 120 mmol, Aldrich, Cat. No. 208256) in ethanol (100 mL) was heated at 100° C. overnight. The solution was quenched with 1N NaOH aqueous solution, and then extracted with ethyl acetate twice. The combined organic phases were washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to afford the desired compound (6.8 g, 99%). LCMS (M+H)+: m/z=278.0.

reactant | tert-butyl {3-[(4-bromo-2-nitrophenyl)amino]phenyl}carbamate | 24.7 mmol, 10.1 g | BrC1=CC(=C(C=C1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C17H18BrN3O4
reactant | tin dichloride | [Sn](Cl)Cl
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N1-(3-aminophenyl)-4-bromobenzene-1,2-diamine | 6.8 g, 99% | NC=1C=C(C=CC1)NC=1C(=CC(=CC1)Br)N | C12H12BrN3
